US08097759B2
5-Chloro-2-hydroxy-N-[2-(trifluoromethyl)phenyl]benzamide (Compound No. 104)
Using 5-chlorosalicylic acid and 2-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-(trifluoromethyl)aniline | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
product | 5-Chloro-2-hydroxy-N-[2-(trifluoromethyl)phenyl]benzamide | Yield: 58.0% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC=C2)C(F)(F)F)C1)O | C14H9ClF3NO2
